US06346296B1
Preparation of Oligotrimethyl Phenyl Indane (DIPB:AMS=1:1)
To a 5 liter 3 necked round bottom flask equipped with an air driven mechanical stirrer was added 800 g of dry 1,2-dichloroethane and 20 g of trifluoroacetic acid. 209.0 g of 1,3-diisopropenylbenzene (1.32 mol) and 150.8 g of α-methylstyrene (AMS) (1.27 mol) were combined in an addition flask, and were added dropwise to the stirred solution over a 1 hr time period. After 1 hr of agitation in which the solution turned a light red color, 20 g of concentrated sulfuric acid was added dropwise. The vessel was cooled externally with ice water to maintain a temperature close to room temperature. The flask was allowed to stir overnight. 1 L of 10% basic NaOH in water was added to the flask, the 1,2-dichloroethane distilled away causing the precipitation of a solid, the product filtered and washed with deionized water, and then dried. 1H NMR analysis showed the presence of no internal olefins and the structure was consistent with the literature [Dittmer, T., Gruber, F., Nuyken, O., Makromol. Chem. 190, 1771-1790 (1989). Integration of the protons showed a ratio of 1.95:1.0 aliphatic protons to aromatic protons.

reactant | trifluoroacetic acid | 20 g | FC(C(=O)O)(F)F | C2HF3O2
reactant | 1,3-diisopropenylbenzene | 1.32 mol, 209.0 g | C(=C)(C)C1=CC(=CC=C1)C(=C)C | C12H14
reactant | α-methylstyrene | 1.27 mol, 150.8 g | CC(=C)C1=CC=CC=C1 | C9H10
reactant | sulfuric acid | 20 g | S(O)(O)(=O)=O | H2O4S
reactant | NaOH | 1 L | [OH-].[Na+]
solvent | water | O | H2O
solvent | 1,2-dichloroethane | 800 g | ClCCCl | C2H4Cl2
product | Phenyl Indane | C1(=CC=CC=C1)C1CCC2=CC=CC=C12 | C15H14
